US04703049
Using the procedure of Steps B and C of Example 3, 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carbohydrazide and acetic anhydride were reacted to obtain a 34% yield of 6-ethyl-7-methoxy-5-methyl-2-(5-methyl-1,3,4-oxadiazol-2-yl)imidazo[1,2-a]pyrimidine.

reactant | 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carbohydrazide | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(=O)NN)OC | C11H15N5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 6-ethyl-7-methoxy-5-methyl-2-(5-methyl-1,3,4-oxadiazol-2-yl)imidazo[1,2-a]pyrimidine | 34% yield | C(C)C=1C(=NC=2N(C1C)C=C(N2)C=2OC(=NN2)C)OC | C13H15N5O2
